US05221315
Example H1: Preparation of N-(3-n-butylaminopyridin-2-ylsulfonyl)-N'-(4,6-dimethoxypyrimidin-2-yl)urea (compound No. 1.001)
The following are added in succession to a mixture of 2.75 g of 3-n-butylaminopyridin-2-ylsulfonamide in 40 ml of acetonitrile: 3.5 g of phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate and 1.97 ml of 1,5-diazabicyclo[5.4.0]undec-5-ene. The reaction mixture is stirred for 30 minutes and evaporated, the oily residue is triturated with 10 ml of 2N hydrochloric acid and subsequently with 10 ml of ice/water and a little diethyl ether, and the mixture is filtered. The filter residue is subsequently washed with a little water and diethyl ether and dried. 4.39 g of N-(3-n-butylaminopyridin-2-ylsulfonyl)-N'-(4,6-dimethoxypyrimidin-2-yl)urea (compound No. 1.001) of a melting point of 118°-119° C. are obtained.

reactant | 3-n-butylaminopyridin-2-ylsulfonamide | 2.75 g | C(CCC)NC=1C(=NC=CC1)S(=O)(=O)N | C9H15N3O2S
reactant | phenyl N-(4,6-dimethoxypyrimidin-2-yl)carbamate | 3.5 g | COC1=NC(=NC(=C1)OC)NC(OC1=CC=CC=C1)=O | C13H13N3O4
reactant | 1,5-diazabicyclo[5.4.0]undec-5-ene | 1.97 ml | N12CCCN=CC2CCCC1 | C9H16N2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-(3-n-butylaminopyridin-2-ylsulfonyl)-N'-(4,6-dimethoxypyrimidin-2-yl)urea | C(CCC)NC=1C(=NC=CC1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C16H22N6O5S
